US03971791
Upon heating a solution of 13.9 g of 3-nitrobenzylideneacetoacetic acid isopropyl ester and 7.2 g of amidinoacetic acid n-propyl ester in 100 ml of ethanol for 6 hours, 2-amino-6-methyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-n-propyl ester 5-isopropyl ester of melting point 199°C (isopropanol) is obtained. Yield: 75% of theory.

reactant | 3-nitrobenzylideneacetoacetic acid isopropyl ester | 13.9 g | C(C)(C)OC(CC(=O)C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C14H15NO5
reactant | amidinoacetic acid n-propyl ester | 7.2 g | C(CC)OC(CC(N)=N)=O | C6H12N2O2
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-6-methyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-n-propyl ester 5-isopropyl ester | Yield: 75% | C(C)(C)OC(=O)C=1C(C(=C(NC1C)N)C(=O)OCCC)C1=CC(=CC=C1)[N+](=O)[O-] | C20H25N3O6
